US04141903
2-(2-Hydroxy-5-methylphenyl)-2H-benzotriazole
To a 1000-ml. round-bottomed, three-neck flask fitted with a gas inlet tube, stirrer and reflux condenser is added 20.0 grams (0.08 mol) of 2-nitro-2'-hydroxy-5'-methylazobenzene (99.7% pure) dissolved in a solution of 200 ml of xylene. To this solution is added with stirring a mixture of 23.0 grams (0.32 mol) of 1,3-diaminopropane, 100 ml of water and 4 grams (0.02 mol) of cupric acetate. Carbon monoxide gas is then bubbled through the stirred reaction mixture for 15-20 hours with the temperature being maintained at 85°-90° C.

reactant | 2-nitro-2'-hydroxy-5'-methylazobenzene | 0.08 mol, 20.0 grams | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C=CC(=C1)C)O | C13H11N3O3
reactant | 1,3-diaminopropane | 0.32 mol, 23.0 grams | NCCCN | C3H10N2
reactant | water | 100 ml | O | H2O
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(2-Hydroxy-5-methylphenyl)-2H-benzotriazole | OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=CC=C2 | C13H11N3O
